** sch_path: /foss/designs/SAR_ADC_IHP/xschem/comparator/discrete_time/testbenches/DT_comparator_tb_tran.sch
**.subckt DT_comparator_tb_tran
VDD VDD GND 1.5
V1 clk GND pulse(1.5 0 {tstart} 10p 10p 3n 6n 1)
vinn vinn GND {Vcm}
vinp vinp GND {0.75 + {delta_vin}}
C2 vout GND 10f m=1
x1 VDD vinp vout vinn clk GND pulse DT_comparator
VDD3 VSS GND 0
**** begin user architecture code

.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerRES.lib res_typ
.include /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/spice/sg13g2_stdcell.spice



.param temp=27
.param fclk=8000000
.param fphi=62500
.param tstart=2n
.param delta_vin = 400u
.param Vcm=0.75
.csparam fclk=fclk
.csparam tstart=tstart
.options savecurrents reltol=1e-3 abstol=1e-12 gmin=1e-15
.ic v(vout) = 0
.control
save all

* Operating Point Analysis
op
remzerovec
write DT_comparator_tb_tran.raw
set appendwrite

* Transient Analysis
* tran 4p 20n
tran 40p 16n
*write DT_comparator_tb_tran.raw

* Measure vcpp_min & vcpn_min
*let tmeas = 1/fclk
*meas tran vcpp_min FIND v(x1.x1.vcpp) at=tmeas
*meas tran vcpn_min FIND v(x1.x1.vcpn) at=tmeas

* Measure Propagation Delay
* Time from clock rising edge to 90% VDD of vout
*let vout_limit = 0.9 * 1.5
*meas tran tcross WHEN v(vout)=vout_limit CROSS=1
*let tpd = tcross - tstart
*echo Propagation Delay $&tpd s

* Calculate Energy / Conversion
* i_int in As
* energy_conv in Ws = J
*let N = 1
*let t_conv = 150n
*meas tran i_int INTEG i(VDD) from=tstart to=t_conv
*let energy_conv = 1.5 * i_int / N

*let energy_conv_femto = energy_conv * 1e15
*echo Energy / Conversion $&energy_conv_femto fJ/conv

* Plotting
*plot v(clk) v(vinp) v(vinn)   v(x1.voutp_comp) v(x1.voutn_comp) v(vout)
*plot v(clk)  v(x1.voutp_comp) v(x1.voutn_comp) v(vout)
*plot i(VDD)
*plot v(clk)  {v(x1.x6.vx_n) +2} {v(vout) + 4} {v(x1.pulsen) + 6} {v(x1.x6.vx) + 8}  {v(x1.x6.READY) + 10}
plot v(x1.voutp_buf) {v(x1.voutn_buf)  + 2} {v(x1.x6.vx_n) + 4}  {v(pulse) + 8} {v(x1.x6.READY) + 10}
plot v(x1.voutp_comp) {v(x1.voutn_comp)  + 2} {v(x1.x6.vx_n) + 4}  {v(x1.x6.vx) + 8} {v(x1.x6.vxs) + 10}
* Writing Data
*set wr_singlescale
*set wr_vecnames
*let vs=x1.x1.vs
*let vcpp=x1.x1.vcpp
*let vcpn=x1.x1.vcpn
*let voutp_comp=x1.voutp_comp
*let voutn_comp=x1.voutn_comp
*wrdata /foss/designs/SG13G2_ATBS-ADC-main/python/plot_simulations/data/DT_comparator_tb_tran.txt v(clk) v(vinp) v(vinn) v(vs) v(vcpp) v(vcpn) v(voutp_comp) v(voutn_comp) v(vout)

*quit
.endc

**** end user architecture code
**.ends

* expanding   symbol:  comparator/discrete_time/DT_comparator.sym # of pins=7
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/comparator/discrete_time/DT_comparator.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/comparator/discrete_time/DT_comparator.sch
.subckt DT_comparator VDD vinp vout vinn en VSS PULSE
*.iopin VDD
*.opin vout
*.iopin VSS
*.ipin vinp
*.ipin vinn
*.ipin en
*.iopin PULSE
x2 VDD voutp_comp voutp_buf VSS buffer_lv W_P_INV=1.0u L_P_INV=0.13u W_N_INV=1.0u L_N_INV=0.13u
x3 VDD voutn_comp voutn_buf VSS buffer_lv W_P_INV=1.0u L_P_INV=0.13u W_N_INV=1.0u L_N_INV=0.13u
x5 VDD PULSEN PULSE VSS inverter_lv W_P=2.0u L_P=0.13u W_N=2.0u L_N=0.13u n=1
* noconn #net1
x4 VDD voutp_buf net1 VSS net3 voutn_buf SR_latch W_P_SR=1.0u L_P_SR=0.13u W_N_SR=1.0u L_N_SR=0.13u
x6 VDD voutp_buf VSS voutn_buf PULSEN net2 en pgen
V1 VDD net2 1
x1 PULSE PULSEN VDD voutp_comp vinp VSS voutn_comp vinn dynamic_biasing_comparator
x7 VDD net3 vout VSS buffer_lv W_P_INV=3.0u L_P_INV=0.13u W_N_INV=3.0u L_N_INV=0.13u
.ends


* expanding   symbol:  buffer/buffer_lv.sym # of pins=4
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/buffer/buffer_lv.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/buffer/buffer_lv.sch
.subckt buffer_lv VDD vin vout VSS  W_P_INV=3.0u L_P_INV=0.13u W_N_INV=1.0u L_N_INV=0.13u
*.ipin vin
*.iopin VDD
*.iopin VSS
*.opin vout
x1 VDD vin net1 VSS inverter_lv W_P=W_P_INV L_P=L_P_INV W_N=W_N_INV L_N=L_N_INV n=1
x2 VDD net1 vout VSS inverter_lv W_P=W_P_INV L_P=L_P_INV W_N=W_N_INV L_N=L_N_INV n=1
.ends


* expanding   symbol:  inverter/inverter_lv.sym # of pins=4
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/inverter/inverter_lv.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/inverter/inverter_lv.sch
.subckt inverter_lv VDD vin vout VSS  W_P=3.0u L_P=0.13u W_N=1.0u L_N=0.13u n=1
*.ipin vin
*.iopin VDD
*.iopin VSS
*.opin vout
XM1 vout vin VDD VDD sg13_lv_pmos w=W_P l=L_P ng=1 m=n
XM2 vout vin VSS VSS sg13_lv_nmos w=W_N l=L_N ng=1 m=n
.ends


* expanding   symbol:  comparator/SR_latch/SR_latch.sym # of pins=6
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/comparator/SR_latch/SR_latch.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/comparator/SR_latch/SR_latch.sch
.subckt SR_latch VDD S Qn VSS Q R  W_P_SR=1.0u L_P_SR=0.13u W_N_SR=1.0u L_N_SR=0.13u
*.iopin VDD
*.opin Q
*.iopin VSS
*.ipin S
*.ipin R
*.opin Qn
x1 VDD Q R Qn VSS NOR_gate W_P=W_P_SR L_P=L_P_SR W_N=W_N_SR L_N=L_N_SR
x2 VDD Qn Q S VSS NOR_gate W_P=W_P_SR L_P=L_P_SR W_N=W_N_SR L_N=L_N_SR
.ends


* expanding   symbol:  comparator/pulse_gen/pgen.sym # of pins=7
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/comparator/pulse_gen/pgen.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/comparator/pulse_gen/pgen.sch
.subckt pgen VDD in2 VSS in1 PULSE_n VTUNE en
*.iopin VDD
*.iopin in2
*.iopin in1
*.iopin VSS
*.iopin VTUNE
*.iopin PULSE_n
*.iopin en
XM1 READY in1 VSS VSS sg13_lv_nmos w=.15u l=0.13u ng=1 m=1
XM2 READY vx_n VDD VDD sg13_lv_pmos w=2u l=0.13u ng=1 m=1
XM4 vx net1 net5 VDD sg13_lv_pmos w=2u l=0.13u ng=1 m=1
x46 vxs READY VDD VSS net1 sg13g2_or2_2
x6 vxs VDD VSS vx_n sg13g2_inv_2
XM3 READY in2 VSS VSS sg13_lv_nmos w=.15u l=0.13u ng=1 m=1
XM5 vx READY VSS VSS sg13_lv_nmos w=1u l=0.13u ng=1 m=1
XM7 net5 VTUNE VDD VDD sg13_lv_pmos w=2u l=0.13u ng=1 m=1
XM6 net4 vx VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM8 net3 vx net2 VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM9 net3 vx net4 VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM10 net2 vx VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM11 VDD net3 net2 VDD sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM12 VSS net3 net4 VSS sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
x1 net3 VDD VSS vxs sg13g2_inv_2
x2 net1 en VDD VSS PULSE_n sg13g2_and2_2
XM13 READY en VDD VDD sg13_lv_pmos w=2u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  comparator/discrete_time/Dynamic-biasing/dynamic_biasing_comparator.sym # of pins=8
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/comparator/discrete_time/Dynamic-biasing/dynamic_biasing_comparator.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/comparator/discrete_time/Dynamic-biasing/dynamic_biasing_comparator.sch
.subckt dynamic_biasing_comparator di_clk_n di_clk VDD voutp vinp VSS voutn vinn
*.iopin VDD
*.opin voutp
*.opin voutn
*.ipin di_clk_n
*.iopin VSS
*.ipin vinp
*.ipin vinn
*.ipin di_clk
XM3a vs di_clk vctail VSS sg13_lv_nmos w=4.0u l=0.13u ng=1 m=1
XM12 voutp di_clk_n VSS VSS sg13_lv_nmos w=4.0u l=0.13u ng=1 m=1
XM8 net1 voutn VDD VDD sg13_lv_pmos w=8.0u l=0.13u ng=2 m=1
XM10 voutp voutn VSS VSS sg13_lv_nmos w=4.0u l=0.13u ng=1 m=1
XM11 voutn voutp VSS VSS sg13_lv_nmos w=4.0u l=0.13u ng=1 m=1
XM13 voutn di_clk_n VSS VSS sg13_lv_nmos w=4.0u l=0.13u ng=1 m=1
CPn vcpn VSS 80f m=1
CPp vcpp VSS 80f m=1
XM9 net2 voutp VDD VDD sg13_lv_pmos w=8.0u l=0.13u ng=2 m=1
XM6 voutp vcpn net1 VDD sg13_lv_pmos w=10.0u l=0.13u ng=2 m=1
XM7 voutn vcpp net2 VDD sg13_lv_pmos w=10.0u l=0.13u ng=2 m=1
CTAIL vctail VSS 600f m=1
XM3b vctail di_clk_n VSS VSS sg13_lv_nmos w=2.0u l=0.13u ng=1 m=1
XM1 vcpn vinp vs VSS sg13_lv_nmos w=6.0u l=0.13u ng=1 m=1
XM2 vcpp vinn vs VSS sg13_lv_nmos w=6.0u l=0.13u ng=1 m=1
XM4 vcpn di_clk VDD VDD sg13_lv_pmos w=2.0u l=0.13u ng=1 m=1
XM5 vcpp di_clk VDD VDD sg13_lv_pmos w=2.0u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  comparator/NOR_gate/NOR_gate.sym # of pins=5
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/comparator/NOR_gate/NOR_gate.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/comparator/NOR_gate/NOR_gate.sch
.subckt NOR_gate VDD C A B VSS  W_P=1.0u L_P=0.13u W_N=0.5u L_N=0.13u
*.iopin VDD
*.opin C
*.iopin VSS
*.ipin A
*.ipin B
XM1 C A VSS VSS sg13_lv_nmos w=W_N l=L_N ng=1 m=1
XM2 C B VSS VSS sg13_lv_nmos w=W_N l=L_N ng=1 m=1
XM3 C B net1 VDD sg13_lv_pmos w=W_P l=L_P ng=1 m=1
XM4 net1 A VDD VDD sg13_lv_pmos w=W_P l=L_P ng=1 m=1
XM5 C A net2 VDD sg13_lv_pmos w=W_P l=L_P ng=1 m=1
XM6 net2 B VDD VDD sg13_lv_pmos w=W_P l=L_P ng=1 m=1
.ends

.GLOBAL GND
.GLOBAL VDD
.end
